US07118871B2
Dabsyl-diaminobutane (3) Synthesis
1,4-diaminobutane was dissolved in acetonitrile. Dabsyl sulfonyl chloride was slurred in acetonitrile. The Dabsyl sulfonyl chloride slurry was added to the diaminobutane solution and reacted for 15 minutes. The reaction was quenched with water, diluted to 40% water and filtered. The filtrate was diluted to 60% water and re-filtered. The resulting filter cake was dried under high vacuum. The dry filter cake was dissolved in acetonitrile and dried in a rotoevaporator. The dried material was subject to further characterization. Calculated mass 375.49. Observed m+1 376.3. Elemental analysis—Calculated: % C, 57.57; % H, 6.71; % N, 18.65. Observed: % C, 57.48; % H, 6.35; % N, 18.33.

reactant | 1,4-diaminobutane | NCCCCN | C4H12N2
reactant | Dabsyl sulfonyl chloride | S(=O)(=O)(C1=CC=C(N=NC2=CC=C(N(C)C)C=C2)C=C1)S(=O)(=O)Cl | C14H14ClN3O4S2
reactant | diaminobutane | NC(C(C)N)C | C4H12N2
solvent | acetonitrile | C(C)#N | C2H3N
product | Dabsyl-diaminobutane | S(=O)(=O)(C1=CC=C(N=NC2=CC=C(N(C)C)C=C2)C=C1)CC(C(C)N)N | C18H25N5O2S
